US05659065
a) 2(R)-(p-tert-butyl-benzyl)-3-methyl-butanol
A solution of 4(R)-benzyl-3-[2(R)-(p-tert-butyl-benzyl)-3-methyl-butyryl]-oxazolidin-2-one (8.63 g) in tetrahydrofuran (40 ml) is added dropwise at 0° C., with stirring, to a suspension of lithium aluminium hydride (2.41 g) in tetrahydrofuran (160 ml). The reaction mixture is stirred for 4 hours at 0° C. and then, at 0° C., ethyl acetate (5 ml), 30 ml of a (1:1) mixture of tetrahydrofuran/water and 2N sulfudc acid (80 ml) are added in succession thereto. The supension is extracted with ethyl acetate and the crude product is purified by FC (700 g of silica gel, eluant dichloromethane). The title compound is obtained: Rf (dichloromethane)=0.34; m.p. 49°-51° C.

reactant | 4(R)-benzyl-3-[2(R)-(p-tert-butyl-benzyl)-3-methyl-butyryl]-oxazolidin-2-one | 8.63 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CC1=CC=C(C=C1)C(C)(C)C)=O | C26H33NO3
reactant | lithium aluminium hydride | 2.41 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran water | O1CCCC1.O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | 2(R)-(p-tert-butyl-benzyl)-3-methyl-butanol | C(C)(C)(C)C1=CC=C(C[C@@H](CO)C(C)C)C=C1 | C16H26O
